US05541213
1-(3-Chlorophenyl)-2-(pyridin-2-yl)ethyl alcohol
50 ml of a solution of 5.58 g of 2-picoline in tetrahydrofuran was cooled to -65° C., followed by the dropwise addition thereto of 26.4 ml of a 2.5M solution of n-butyllithium in hexane. The obtained mixture was stirred at a bulk temperature of -50° to -30° C. for 30 minutes, followed by the dropwise addition thereto of 50 ml of a tetrahydrofuran solution of 8.85 g of 3-chlorobenzaldehyde at -50° C. The temperature of the obtained mixture was raised to 0° C. The resulting mixture was cooled, treated with an aqueous solution of ammonium chloride, and extracted with ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate and concentrated (yield: 13.5 g). This concentrate was used in the subsequent step without purification.

reactant | 2-picoline | 5.58 g | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-chlorobenzaldehyde | 8.85 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(3-Chlorophenyl)-2-(pyridin-2-yl)ethyl alcohol | ClC=1C=C(C=CC1)C(CC1=NC=CC=C1)O | C13H12ClNO
